US06110962
Methanesulfonic acid 4-(6-Chloro-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenyl ester
To a solution of methanesulfonic acid 4-benzo[b]naphtho[2,3-d]thiophen-11-yl-phenyl ester (1.00 g, 2.47 mmol) in chloroform (10 mL) was added sulfuryl chloride (0.21 mL, 2.60 mmol, 1.05 eq) dropwise at room temperature under a dry nitrogen atmosphere. After stirring 19 hours the reaction mixture was added to water (100 mL) and the organics were extracted with ether (2×100 mL). The extracts were combined, washed with brine, combined with silica gel and the solvent was removed. The adsorbate was flash chromatrographed (85/15 petroleum ether/ethyl acetate) to give the title compound as a white solid (0.957 g, 88%): mp 155-158° C.; NMR (CDCl3); δ 8.41 (ddd, J=8, 1, 1 Hz, 1H), 7.82 (ddd, J=8, 1, 1 Hz, 1H), 7.67 (ddd, J=8, 7, 1 Hz, 1H), 7.61-7.56 (m, 3H), 7.51-7.45 (m, 3H), 7.42-7.38 (ddd, J=8, 7, 1 Hz, 1H), 7.10 (ddd, J=8, 7, 1 Hz, 1H), 6.64 (d, J=8 Hz, 1H), 3.34 (s, 3H); MS (+EI) : [M+], 1 chlorine isotope pattern, 438 (100%), 440 (40%); Anal. Calc. for C23H15ClO3S2: C, 62.93, H, 3.49, N, 0.00. Found: C, 62.72, H, 3.25, N, 0.03.

reactant | methanesulfonic acid 4-benzo[b]naphtho[2,3-d]thiophen-11-yl-phenyl ester | 2.47 mmol, 1.00 g | C1=CC=CC=2SC3=C(C21)C(=C2C=CC=CC2=C3)C3=CC=C(C=C3)OS(=O)(=O)C | C23H16O3S2
reactant | sulfuryl chloride | 2.60 mmol, 0.21 mL, 1.05 eq | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | water | 100 mL | O | H2O
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | Methanesulfonic acid 4-(6-Chloro-benzo[b]naphtho[2,3-d]thiophen-11-yl)-phenyl ester | 0.957 g, 88% | ClC1=C2C=CC=CC2=C(C=2C3=C(SC21)C=CC=C3)C3=CC=C(C=C3)OS(=O)(=O)C | C23H15ClO3S2
